US05045228
To 30 ml of methyl isobutyl ketone were added 3 g of 4-hydroxy-4'-cyanobiphenyl, 21.4 g of 1-bromodecane and 2.5 g of potassium carbonate, and the mixture was reacted under reflux for 30 hours. The reaction mixture was cooled and insoluble substances were removed by filtration. The filtrate was concentrated under a reduced pressure, ethanol was added to the residue and recrystallization was carried out to obtain 5 g of 4-decyloxy-4'-cyanobiphenyl. Thus, 4.1 g of this 4-decyloxy-4'-cyanobiphenyl was dissolved in 25 ml of ethylene glycol, 2.5 ml of 2N sodium hydroxide was added to the solution, and a reaction was carried out under reflux for 4 hours. The reaction liquid was put into dilute hydrochloric acid cooled by ice, and the precipitate was recovered by filtration, washed with water and ethanol, and dried. The dried product was recrystallized from chloroform to obtain 3.0 g of 4'-decyloxybiphenyl-4-carboxylic acid. Then, 20 g of thionyl chloride was dropped into this carboxylic acid and the mixture was reacted under reflux for 2 hours. Unreacted thionyl chloride was removed by distillation under a reduced pressure and 4'-decyloxybiphenyl-4-carboxylic acid chloride was quantitatively recovered.

reactant | 4-hydroxy-4'-cyanobiphenyl | 3 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | 1-bromodecane | 21.4 g | BrCCCCCCCCCC | C10H21Br
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 30 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-decyloxy-4'-cyanobiphenyl | 5 g | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C23H29NO
